US07989454B2
3-Benzo[1,3]dioxol-5-yl-5-hydroxy-N-phenyl-benzamide
3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid (500 mg), PyBroP (1.2 eq.), aniline (1.1 eq.), and triethylamine (2 eq.) were combined in dichloromethane (5 mL) and stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and washed with water. White solid which precipitated in dichloromethane layer was collected by filtration (493 mg). This material was dissolved in THF and hydrogenated over 10% Pd/C (50 mg) in Parr apparatus for 5 h. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure and purified on a silica gel column using ethyl acetate and hexanes to yield 362 mg of title compound (76% yield after 2 steps).

reactant | 3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid | 500 mg | O1COC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=C(C2)OCC2=CC=CC=C2 | C21H16O5
reactant | PyBroP | 1.2 eq. | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | aniline | 1.1 eq. | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 2 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-Benzo[1,3]dioxol-5-yl-5-hydroxy-N-phenyl-benzamide | 362 mg, 76% yield | O1COC2=C1C=CC(=C2)C=2C=C(C(=O)NC1=CC=CC=C1)C=C(C2)O | C20H15NO4
